US09079880B2
To a solution of 7-(3-pyrrolidin-2-yl-benzoylamino)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester HCl (238 mg, 0.387 mmol) in DMF (5 mL) add Et3N (0.082 mL, 0.581 mmol) followed by 3-cyanophenyl isocyanate (69 mg, 0.464 mmol). Stir the solution at room temperature for 48 h. LCMS analysis indicates the presence of starting material. Add more isocyanate (69 mg, 0.464 mmol) and stir the reaction at room temperature 24 h more. Quench the reaction with sat. NH4Cl (100 mL) and extract with EtOAc (2×150 mL). Wash the organic layers with water (100 mL), dry (Na2SO4) and concentrate to an oil. Purify the crude product by silica gel chromatography eluting with 10% to 75% EtOAc/hexane to afford 186 mg 7-{3-[1-(3-cyanophenylcarbamoyl)-pyrrolidin-2-yl]-benzoylamino}-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester as a solid foam.

reactant | 7-(3-pyrrolidin-2-yl-benzoylamino)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester HCl | 0.387 mmol, 238 mg | Cl.C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)NC(C1=CC(=CC=C1)C1NCCC1)=O
reactant | Et3N | 0.581 mmol, 0.082 mL | CCN(CC)CC | C6H15N
reactant | 3-cyanophenyl isocyanate | 0.464 mmol, 69 mg | C(#N)C=1C=C(C=CC1)N=C=O | C8H4N2O
reactant | isocyanate | 0.464 mmol, 69 mg | [N-]=C=O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-{3-[1-(3-cyanophenylcarbamoyl)-pyrrolidin-2-yl]-benzoylamino}-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 186 mg | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)NC(C1=CC(=CC=C1)C1N(CCC1)C(NC1=CC(=CC=C1)C#N)=O)=O | C36H33N5O4
